US05665718
30 ml of methylamine (33% in ethanol) were added dropwise at 70° to a suspension of 2.5 g (5.4 mmol) of (S)-2-[5-(8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-1-yl)-1,3,4-oxadiazol-2-ylmethyl]-2,3-dihydro-1H-isoindole-1,3-dione in 30 ml of ethanol and the mixture was stirred at 70° for one hour. The precipitate obtained was filtered off while hot and the yellowish powder obtained was washed colourless with ethanol. There were obtained 1.18 g (66%) of (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]-diazepin-8-one as a colourless powder of m.p. 233°-235°.

reactant | methylamine | 30 ml | CN | CH5N
reactant | (S)-2-[5-(8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-1-yl)-1,3,4-oxadiazol-2-ylmethyl]-2,3-dihydro-1H-isoindole-1,3-dione | 5.4 mmol, 2.5 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C3=NN=C(O3)CN3C(C4=CC=CC=C4C3=O)=O)C=CS2 | C22H14N6O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]-diazepin-8-one | 1.18 g, 66% | NCC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
